2118-03-22 09:15:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: LLL pneumonia, COPD
   24 Hour Events:
   Repeat contrast chest CT with no evidence PE
   Antibiotics were held given no evidence infection overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-22**] 07:45 AM
   Other medications:
   atrovent
   mdi
   heparin
   pepcid
   chlorhexadine
   senna
   colace
   mucomyst 1200 [**Hospital1 **] x 4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient unable to respond
   Flowsheet Data as of  [**2118-3-22**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 110 (105 - 125) bpm
   BP: 107/54(66) {98/54(65) - 115/63(75)} mmHg
   RR: 30 (25 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,008 mL
   PO:
             TF:
   IVF:
   918 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    660 mL
   Urine:
   660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 716 (493 - 716) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.46/34/70/24/0
   Ve: 13.1 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: cachectic, minimally responsive, opens eyes to
   voice
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, s/p PEG
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, 2/5 strength left, [**12-21**] R upper extremity
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   13.0 g/dL
   287 K/uL
   116 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.9 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   39.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2118-3-22**]  03:15 AM
                             [**2118-3-22**]  03:59 AM
   WBC
   10.3
   Hct
   39.7
   Plt
   287
   Cr
   0.6
   TCO2
   25
   Glucose
   116
   Other labs: ALT / AST:85/107, Alk Phos / T Bili:132/1.8, Lactic
   Acid:1.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Chest CT: no evidence pulmonary embolism.  There is persistent RUL
   necrotic area with surrounding infiltrate that does not appear to have
   changed in size.  There is improved LLL infiltrate.  There are
   persistent scattered tree-in-[**Male First Name (un) **] opacities which appear improved from
   prior chest CT.
   Assessment and Plan
   58 yo M COPD, recent CVA, here with respiratory failure
   1. Respiratory failure:  currently tolerating PSV 10/5, CT with no
   evidence of new infection but chronic bronchiectasis and resolving
   necrotic pneumonia
    - may need Rx of stenothrophomonas in cyclic fashion
    - await culture data
    - wean vent
    - cont standing albuterol/atrovent nebulizers and mucinex
    - will need to discuss with ID service regarding long-term plan for
   aspergillus  and stenotrophomonas in recent culture data
   2. S/p thalamic hemorrhage
   - CT head with no evidence new bleed
    - neurology following
   3. COPD:
    - albuterol/atrovent nebs
   4. Cirrhosis:
    - holding lasix as pt appears dehydrated, to restart once he returns
   to health care facility
   5. Opiate addiction:
    - holding methadone given altered mental status
   6. FEN: restart tube feeds
   ICU Care
   Nutrition: will restart tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-22**] 12:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 45 minutes
   Patient is critically ill

2118-03-24 05:50:00 Physician Resident Progress Note
Chief Complaint:
   58yo M  with HCV, COPD s/p trach placement with h/o Nocardia and
   Aspergillus in sputum, recent thalamic CVA who presented with
   respiratory distress/hypoxia likely from mucous plugging vs. PNA
   24 Hour Events:
   - had trial of PM valve. will get video swallow thurs am per s+s recs
   - hct 39.7 -> 34.5
 now 32.9 this morning, no gross bleeding but
   complaining of abdominal pain on exam, last bowel movement last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-3-23**] 08:39 AM
   Lansoprazole (Prevacid) - [**2118-3-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-24**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 82 (70 - 95) bpm
   BP: 127/59(74) {107/43(60) - 156/68(78)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,400 mL
                                                                    495 mL
   PO:
             TF:
                                                                    869 mL
                                                                    377 mL
   IVF:
                                                                    291 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    540 mL
   Urine:
                                                                  1,595 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   General:  alert and oriented x 2, limited communication with trach,
   mildly anxious
   HEENT: PERRL, EOMI, OP clear, nares clear
   NECK:  trach mask in tact
   LUNGS: Rhonchi over anterior apices and crackles over LLL region
   CARD: S1/S2  regular. RRR. No murmurs, rubs or gallops.
   ABD: normoactive bowel sounds, mild TTP over lower quadrants but no
   guarding or rebound, PEG appears c/d/i
   MS: weakness 2-3/5 in LUE and weakness noted in LLE
   SKIN:  warm, pink, dry , no rashes
   NEURO: CNs [**1-28**] in tact,  weakness in left UE/LE as above, sensation in
   tact
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Labs / Radiology
   186 K/uL
   10.9 g/dL
   99 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   36 mg/dL
   112 mEq/L
   142 mEq/L
   32.9 %
   3.8 K/uL
        [image002.jpg]
                             [**2118-3-22**]  03:15 AM
                             [**2118-3-22**]  03:59 AM
                             [**2118-3-23**]  03:33 AM
                             [**2118-3-23**]  05:15 PM
                             [**2118-3-24**]  03:30 AM
   WBC
   10.3
   7.7
   4.7
   3.8
   Hct
   39.7
   34.5
   33.2
   32.9
   Plt
   287
   239
   203
   186
   Cr
   0.6
   0.6
   TCO2
   25
   Glucose
   116
   99
   Other labs: PT / PTT / INR:16.0/46.2/1.4, ALT / AST:72/90, Alk Phos / T
   Bili:110/1.5, Lactic Acid:1.4 mmol/L, Albumin:2.3 g/dL, LDH:242 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 M with hep C, COPD, bronchiectasis s/p recent CVA admitted from
   rehab with respiratory distress [**1-18**] aspiration event being treated for
   Stenotrophomonas
   - Anemia :  HCT back to baseline from 39 to 32 now, no excess IVF to
   blame dilutional effects. No signs of any overt bleeding but c/o
   abdominal pain. Guiac negative. Hct baseline around 32-34 so no
   evidence of overt bleed
   - PM Hct
   - guaiac all stools
   - make sure consented and active T&S
 .H/O RESPIRATORY FAILURE, CHRONIC
   - felt to be secondary to mucous plugging with underlying treated PNA
   and COPD. No evidence of PE which was an initial concern. Imaging with
   RUL cavitary lesion and probable aspergilloma. Being treated for
   Stenotrophomonas in sputum.
   - will continue oxygen via trach mask
   -continue Bactrim coverage for cultured Stenotrophomonas
 will talk to
   ID for course
   - plan for repeat chest CT in 6 weeks
 consider starting voriconazole
   for Aspergillus if worse
   - continue suctioning, chest PT
   - followup repeat sputum culture here, fungal markers (galactomannan)
   - will need close outpt followup with VA pulmonologist
 .H/O VENTRICULAR TACHYCARDIA, SUSTAINED
   - stable HR and rhythm is NSR predominantly
   - no new medications at this time
   .
   # Recent right thalamic hemorrhagic CVA
   Recent CT without evidence of bleed expansion. No change in L sided
   weakness
   - follow daily neuro exam
   - neuro recs appreciated
   - avoiding treatment dose anticoagulation
   # Aspiration: Failed video swallow this AM
   - continue trial pureed solids for comfort and tube feeds
   - needs continued speech/swallow therapy
   # COPD
   - continue Atrovent
   # HCV cirrhosis
   - stable, follow
   .
   # h/o IVDU
   - continue methadone.
   ICU Care
   Nutrition: Ok for small amounts pureed solids for comfort, but patient
   high risk. Continue tube feeds below.
   Replete with Fiber (Full) - [**2118-3-24**] 03:30 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2118-3-22**] 12:47 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Sister [**Name (NI) 469**] [**Name (NI) **] at [**Telephone/Fax (1) 11554**] and
   [**Telephone/Fax (1) 11770**] had discussion on patient was made DNR, [**Doctor First Name 469**] is hesitant
   to pursue invasive procedures and does not want extreme measures
   pursued.
   Code status: DNR
   Disposition: ICU, has bed at rehab today

2118-03-24 10:16:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo M COPD, history of nocardia with cavitary RUL lesion, now
   aspergilloma, also STM colonization, recent hospitalization for CVA,
   recurrent aspiration who presents from rehab with hypoxemic respiratory
   failure.
   24 Hour Events:
   Patient accepted to return to LTAC [**3-24**]
   Seen by speech pathology, unable to tolerate PMV, modified barium
   swallow performed but he did not demonstrate good swallow technique
   Hct dropped 39-->32, but guaiac negative and no active s/sx bleed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2118-3-23**] 08:00 PM
   Other medications:
   atrovent
   methadone
   colace
   bactrim 2 tabs q 8
   lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-3-24**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 71 (70 - 100) bpm
   BP: 120/59(73) {107/43(60) - 156/68(78)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,400 mL
                                                                    770 mL
   PO:
             TF:
                                                                    869 mL
                                                                    551 mL
   IVF:
                                                                    291 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    870 mL
   Urine:
                                                                  1,595 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, Tone: Not assessed, LLE weakness 2/2 cva
   Labs / Radiology
   10.9 g/dL
   186 K/uL
   99 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   36 mg/dL
   112 mEq/L
   142 mEq/L
   32.9 %
   3.8 K/uL
        [image002.jpg]
                             [**2118-3-22**]  03:15 AM
                             [**2118-3-22**]  03:59 AM
                             [**2118-3-23**]  03:33 AM
                             [**2118-3-23**]  05:15 PM
                             [**2118-3-24**]  03:30 AM
   WBC
   10.3
   7.7
   4.7
   3.8
   Hct
   39.7
   34.5
   33.2
   32.9
   Plt
   287
   239
   203
   186
   Cr
   0.6
   0.6
   TCO2
   25
   Glucose
   116
   99
   Other labs: PT / PTT / INR:16.0/46.2/1.4, ALT / AST:72/90, Alk Phos / T
   Bili:110/1.5, Lactic Acid:1.4 mmol/L, Albumin:2.3 g/dL, LDH:242 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 yo M severe COPD, recent nocardia and cavitating lung lesion, now
   with aspergillus and stenotrophomonas colonization
   1. Hct decrease: likely hemodilution, this is close to his baseline,
   guaiac negative and no s/sx bleed, will repeat this evening
   2. Hypoxemic respiratory failure: likely mucus plug versus aspiration
   event.  In addition he has STM likely colonization and + aspergillus ;
   galactomannan positive and RUL cavity would suggest this is a pathogen.
   If repeat imaging no better in 6 weeks in RUL, will need antifungal
   therapy
    - cont bactrim at least 15 days and monitor for leukopenia
    - cont atrovent
    - cont trach collar mask
   3. Aspiration: speech and swallow following him, with failed MBS.
   Continued training and strenght, cont tube feeds for now, continue
   aspiration precautions
   4. Pain: Hip and foot pain which has been chronic, continue standing
   methadone
   5. HCV:
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-3-22**] 12:47 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility. Will need f/u
   in ID and Pulm clinics
   Total time spent: 45 minutes
   Patient is chronicallyt ill